Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PODIATRY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
 L foot contractures
 
Major Surgical or Invasive Procedure:
1. Soft tissue contracture release.
2. First and ___ metatarsophalangeal release.
3. Split-thickness skin graft, left foot.

 
History of Present Illness:
The patient is a ___
female who suffered some severe burn injuries to bilateral
feet approximately ___ years ago and has now subsequently
developed some severe soft tissue contractures that prevent
the patient from being able to fit into normal shoe gear.
These contractures also cause her significant pain, and she
now desires surgical correction.
 
Past Medical History:
NIFEdipine CR 60 mg', Albuterol MDI 2 PUFF IH Q4H, Evista 60 
mg', Fluoxetine 10 mg', Simvastatin 40 mg', Zomig 2.5 mg', 
Micardis 40 mg', Zonisamide 100 mg'
 
Social History:
___
Family History:
n/c
 
Physical Exam:
Appearance: NAD, AAOx3
Heart: RRR
Lungs: CTA b/l
Abdomen: Soft, NT/ND, (+)BS

VASCULAR
Pedal Pulses:      [x] Palpable  [] Non-palpable

Sub-Papillary VFT: [x] < 3 sec.  [] > 3 sec. [] Immediate

NEUROLOGICAL       Sensation:      [x] Intact  [] Absent
                   Proprioception: [x] Intact  [] Absent

 
Pertinent Results:
none
 
Brief Hospital Course:
The patient was brought to the OR on ___.  She had a soft 
tissue contracture release of the ___ and ___ 
metatarsophalangeal release and a split-thickness skin graft 
with a vac placement, left foot.  The patient tolerated the 
procedure and anesthesia well without apparent complications 
(see op report for full details).  The vac was maintained on the 
skin graft for 5 days post-op.  The vac was taken down on 
___. The pt's wound was clean, dry. The skin graft was 
intact. L thigh wound was also clean, dry without any signs of 
infection.
.
The patient was kept on bedrest while the vac was intact.  The 
patient was then seen by physical therapy. They recommended Home 
with ___.
.
The patient was advised to follow up with Dr. ___ a week 
of discharge.  
.
The patient was discharged in good condition with vital signs 
stable and vascular status intact to the left foot.

 
Medications on Admission:
NIFEdipine CR 60 mg', Albuterol MDI 2 PUFF IH Q4H, Evista 60 
mg', Fluoxetine 10 mg', Simvastatin 40 mg', Zomig 2.5 mg', 
Micardis 40 mg', Zonisamide 100 mg'
 
Discharge Medications:
1. Fluoxetine 10 mg Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  
2. Nifedipine 60 mg Tablet Sustained Release Sig: One (1) Tablet 
Sustained Release PO DAILY (Daily).  
3. Albuterol 90 mcg/Actuation Aerosol Sig: ___ Puffs Inhalation 
Q4H (every 4 hours) as needed.  
4. Raloxifene 60 mg Tablet Sig: One (1) Tablet PO daily ().  
5. Simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. Micardis 40 mg Tablet Sig: One (1) Tablet PO daily ().  
7. Zomig 2.5 mg Tablet Sig: One (1) Tablet PO once a day.  
8. Zonisamide 100 mg Capsule Sig: One (1) Capsule PO once a day. 
 
9. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation for 2 weeks.
Disp:*28 Tablet(s)* Refills:*2*
10. Docusate Sodium 100 mg Capsule Sig: Two (2) Capsule PO BID 
(2 times a day) as needed for constipation for 2 weeks.
Disp:*28 Capsule(s)* Refills:*2*
11. Oxycodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q4H (every 4 hours) as needed for pain.
Disp:*40 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Left digital contractures
 
Discharge Condition:
Good
 
Discharge Instructions:
Please resume all pre-admission medications.  You were given new 
prescriptions, please take as directed.
.
Keep your dressing clean and dry at all times.  You will not 
require dressing change until your follow up visit.
.
You are to remain NON WEIGHT BEARING to your LEFT foot with 
partial weight bearing to the heel for transfers only in a 
surgical shoe with crutches/walker/wheelchair at all times. Keep 
your LEFT foot elevated to prevent swelling.
.
Call your doctor or go to the ED for any increase in LEFT foot 
redness, swelling or purulent drainage from your wound, for any 
nausea, vomiting, fevers greater than 101.5, chills, night 
sweats or any worsening symptoms.
 
Followup Instructions:
___